US07547680B2
2-[4-Ethoxy-3-(4-hydroxybutoxy)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-[4-Hydroxy-3-(4-hydroxybutoxy)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole (30 mg) and potassium carbonate (18 mg) was suspended in N,N-dimethylformamide (0.7 mL). To the mixture was added ethyl iodide (20 μL), and the mixture was stirred at 55° C. for 16 hour. The insoluble material was removed by filtration, and the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=90/10-10/90) to give the title compound (13 mg).

reactant | 2-[4-Hydroxy-3-(4-hydroxybutoxy)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 30 mg | OC1=C(C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=C1)OCCCCO | C23H29N3O7
reactant | potassium carbonate | 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 20 μL | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 2-[4-Ethoxy-3-(4-hydroxybutoxy)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 13 mg | C(C)OC1=C(C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=C1)OCCCCO | C25H33N3O7
